US06670372B2
A Parr flask was charged with 2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl acetate (3.61 g, 12.64 mmol), trifluoroacetic acid (50 mL) and purged with nitrogen. To this solution was added platinum(IV) oxide (0.5 g). The reaction was judged to be complete after 13 days of hydrogenation at ambient temperature. The solution was filtered and the volatiles removed under reduced pressure. The resulting brown oil was partitioned between dichloromethane and saturated aqueous sodium bicarbonate to a pH of ˜8. The layers were separated. The aqueous layer was extracted with dichloromethane (4×). The organic fractions were combined, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting white solid was purified by recrystallization from ethyl acetate/methanol (9/1) and dried to provide 0.98 g of 2-(4-amino-2-methyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)ethanol as a white solid.

reactant | 2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl acetate | 12.64 mmol, 3.61 g | C(C)(=O)OCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H16N4O2
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-amino-2-methyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 0.98 g | NC1=NC=2CCCCC2C2=C1N=C(N2CCO)C | C13H18N4O
